US07157447B2
N-(2-Ethynyl-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A solution of intermediate 178, N-(4-fluoro-2-(2-(trimethylsilyl)ethynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.150 g, 0.28 mmol) in methanol (5 ml) was treated with potassium carbonate (0.120 g, 0.84 mmol) and the resulting mixture stirred at 22° C. for one hour. The reaction mixture was then diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 0.129 g (100% yield) of the title material as a light yellow solid. 1HNMR 400 MHz (CDCl3) δ ppm: 1.64 (6H, s, 2×CH3), 3.31 (1H, s, CH), 4.04 (4H, m, 2×CH2), 4.69 (2H, d, J=6.6 Hz, NCH2), 5.31 (2H, s, OCH2), 7.04 (1H, m, aromatic), 7.21 (1H,dd, J=2.6 Hz and J=9.1 Hz, aromatic), 7.32–7.42 (3H, m, aromatics), 7.40 (1H,dd, J=6.1 Hz and J=8.6 Hz, aromatic), 7.52–7.54 (2H, m, aromatics), 8.00 (1H, broad t, NH). HRMS (ESI+) calculated for C26H25FN3O4 [M+H]: 462.1829. found: 462.1822.

reactant | N-(4-fluoro-2-(2-(trimethylsilyl)ethynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.28 mmol, 0.150 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C#C[Si](C)(C)C | C29H32FN3O4Si
reactant | potassium carbonate | 0.84 mmol, 0.120 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Ethynyl-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.129 g, 100% yield | C(#C)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F | C26H24FN3O4
